US05162312
a) 3-methoxy-17-trimethylsilyloxy-estra-1,3,5(10),16-tetraene
20.3 g (72 mmol) of 3-methoxy-estra-1,3,5(10)-trien-17-one is suspended with exclusion of moisture in 80 ml of acetonitrile (P2O5 and molecular sieve dried) and mixed with 17.4 ml of triethylamine (125 mmol, dried on KOH) as well as with 12.24 ml of trimethylchlorosilane (96 mmol) at an inner temperature of 35° C. Then, an NaI solution, which contains 15 g of NaI (96 mmol) in 100 ml of acetonitrile (NaI dried at 140° C. in a vacuum), is instilled in this suspension, so that the reaction temperature is kept at 35° C. without external heating. The reaction performed under nitrogen is performed with vigorous stirring. It is seen that after the addition has been completed, the amount of undissolved initial product becomes smaller. Later, the crystals completely disappeared. After 1.5 hours, the silyl enol ether begins to crystallize. After 4 hours, the crystal suspension is stirred in ice water, to which some triethylamine was added. Then, it is fritted, rewashed with water, sucked dry and the substance dried on P2O5 in a vacuum. 25.4 g of silyl enol ether, which can be recrystallized from hexane or methanol, is obtained.

reactant | 3-methoxy-estra-1,3,5(10)-trien-17-one | 72 mmol, 20.3 g | COC1=CC=2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C19H24O2
reactant | triethylamine | 125 mmol, 17.4 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 96 mmol, 12.24 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | NaI | [Na+].[I-]
reactant | NaI | 96 mmol, 15 g | [Na+].[I-]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-methoxy-17-trimethylsilyloxy-estra-1,3,5(10),16-tetraene | COC1=CC=2CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C2C=C1)O[Si](C)(C)C | C22H32O2Si
